US09193693B2
A solution of t-butyl 4-(4-methoxyphenyl)piperazine-1-carboxylate (1.3 g, 4.39 mmol, 1.00 equiv) in dichloromethane (11 mL) and trifluoroacetic acid (6 mL) was placed in a 50-mL round bottom flask and stirred for 3 h at 20° C. in an oil bath. The solution was adjusted to a pH value of 7-8 with a saturated aqueous solution of sodium bicarbonate, and extracted with 6×15 mL of dichloromethane. The organic layers combined and dried over anhydrous sodium sulfate, filtered to remove solids, and concentrated under vacuum yielding 430 mg (50%) of 1-(3-chlorophenyl)piperazine as a yellow solid.

reactant | t-butyl 4-(4-methoxyphenyl)piperazine-1-carboxylate | 4.39 mmol, 1.3 g, 1.00 equiv | COC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 11 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(3-chlorophenyl)piperazine | 430 mg, 50% | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
